US06518423B1
Methyl(1.3.5-trimethyl-3-azabicyclo[3.3.1]non-9-yl)acetate
To a solution of 1.78 g of 9-(1,3-dithian-2-ylidenemethyl)-1,3,5-trimethyl-3-azabicyclo[3.3.1]nonane in a solvent mixture of methanol (27 ml) with water (3 ml) was added 3.53 g of mercuric chloride under stirring and the resulting mixture was then refluxed for 20 hours. Next, the reaction mixture was poured into ethyl acetate/an aqueous solution of potassium carbonate and filtered through celite. After. distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.23 g of the title compound as a colorless oily substance.

reactant | 9-(1,3-dithian-2-ylidenemethyl)-1,3,5-trimethyl-3-azabicyclo[3.3.1]nonane | 1.78 g | S1C(SCCC1)=CC1C2(CN(CC1(CCC2)C)C)C | C16H27NS2
reactant | methanol | 27 ml | CO | CH4O
reactant | water | 3 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl(1.3.5-trimethyl-3-azabicyclo[3.3.1]non-9-yl)acetate | 0.23 g | COC(CC1C2(CN(CC1(CCC2)C)C)C)=O | C14H25NO2
